US07094781B2
5-(2-Chloro-5-methoxy-phenoxy)-pyrimidine-4,6-diol was prepared from 2-(2-chloro-5-methoxy-phenoxy)-malonic acid dimnethyl ster and formamidine hydrochloride according to the procedure described in Referential Example 1c.

reactant | 2-(2-chloro-5-methoxy-phenoxy)-malonic acid | ClC1=C(OC(C(=O)O)C(=O)O)C=C(C=C1)OC | C10H9ClO6
reactant | formamidine hydrochloride | Cl.C(=N)N
product | 5-(2-Chloro-5-methoxy-phenoxy)-pyrimidine-4,6-diol | ClC1=C(OC=2C(=NC=NC2O)O)C=C(C=C1)OC | C11H9ClN2O4
